US05864039
7-Bromoheptanoyl chloride (3.2 g) was added to chlorobenzene (30 ml), and aluminum chloride (1.6 g) was added under ice-cooling, which was followed by stirring for 3 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give 2.2 g of 7-bromo-1-(4-chlorophenyl)-1-heptanone.

reactant | 7-Bromoheptanoyl chloride | 3.2 g | BrCCCCCCC(=O)Cl | C7H12BrClO
reactant | chlorobenzene | 30 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | aluminum chloride | 1.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | Water | O | H2O
product | 7-bromo-1-(4-chlorophenyl)-1-heptanone | 2.2 g | BrCCCCCCC(=O)C1=CC=C(C=C1)Cl | C13H16BrClO
